US05563136
N-{(3-Nitrophenyl)methyl}acetohydroxamic acid can be obtained in the following manner: 22 cm3 of an 17N aqueous solution of ammonia are added at a temperature near to 25° C. to a solution of 3.55 g of N-acetoxy-N-{(3-nitrophenyl)methyl}acetamide in 120 cm3 of methanol. The reaction mixture is stirred for two hours at a temperature near to 25° C., and then concentrated under reduced pressure. The residue is dissolved in 100 cm3 of a saturated aqueous solution of sodium chloride, dried over magnesium sulphate and concentrated under reduced pressure. 2.46 g of N-{(3-nitrophenyl)methyl}acetohydroxamic acid melting at 80° C. are thus obtained.

reactant | ammonia | N | H3N
reactant | N-acetoxy-N-{(3-nitrophenyl)methyl}acetamide | 3.55 g | C(C)(=O)ON(C(C)=O)CC1=CC(=CC=C1)[N+](=O)[O-] | C11H12N2O5
solvent | methanol | 120 cm3 | CO | CH4O
product | N-{(3-nitrophenyl)methyl}acetohydroxamic acid | 2.46 g | [N+](=O)([O-])C=1C=C(C=CC1)CN(O)C(C)=O | C9H10N2O4
